US08026257B2
7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine.
To a suspension of (±)-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine (101 mg, 0.255 mmol) and sodium cyanoborohydride (80 mg, 1.27 mmol) in acetonitrile (6 mL) at 0° C. was added formalin (0.053 mL). The reaction was treated with 5 drops of acetic acid and the ice bath was removed, stirring continued for 2 h. The reaction was concentrated and purified by preparative HPLC to give 78.5 mg (75%). 1H-NMR (CDCl3, 500 MHz) δ 8.17 (s, 1H), 7.90 (s, 1H), 7.38 (s, 1H), 7.23 (m, 3H), 7.10 (m, 2H), 4.66 (q, J=5.0 Hz, 1H), 3.50-3.57 (m, 2H), 3.39 (d, J=10 Hz, 1H), 3.27 (s, 6H), 3.18 (d, J=10 Hz, 1H), 2.74 (s, 3H), 2.50-2.73 (m, 4H), 2.35-2.45 (m,2H), 1.51 (d, J=5.0 Hz, 3H); Mass spec.: 411.45 (MH)+.

reactant | (±)-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine | 0.255 mmol, 101 mg | FC1=CC=C(C=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C=NNC12)N(C)C | C23H29FN4O
reactant | sodium cyanoborohydride | 1.27 mmol, 80 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.053 mL | C=O | CH2O
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-N,N-dimethyl-1H-indazol-5-amine | FC1=CC=C(C=C1)C1(CCN(CC1)C)COC(C)C=1C=C(C=C2C=NNC12)N(C)C | C24H31FN4O
